US07495110B2
Stage 1: 3-amino-4-({3-[benzyl(methyl)amino]propyl}amino)-N,N-diisobutyl benzamide
Tin chloride dihydrate (3.58 g, 5eq) is added to a solution of 4-({3-[benzyl(methyl)amino]propyl}amino)-N,N-diisobutyl-3-nitrobenzamide (1.44 g, prepared according to the procedure described for Example A1), in ethyl acetate (40 ml). The mixture is heated under reflux for 7 hours then cooled down to a temperature of approximately 20° C. and poured into a saturated solution of NaHCO3. After decanting and extracting with ethyl acetate, the organic phases are combined, washed with salt water, dried over sodium sulphate and concentrated under reduced pressure at 40° C. Purification by flash chromatography on silica gel (eluent dichloromethane/methanol 95:5) produces the compound in the form of a foam (1.06 g, 78% yield).

reactant | Tin chloride dihydrate | 3.58 g, 5eq | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | 4-({3-[benzyl(methyl)amino]propyl}amino)-N,N-diisobutyl-3-nitrobenzamide | C(C1=CC=CC=C1)N(CCCNC1=C(C=C(C(=O)N(CC(C)C)CC(C)C)C=C1)[N+](=O)[O-])C | C26H38N4O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 3-amino-4-({3-[benzyl(methyl)amino]propyl}amino)-N,N-diisobutyl benzamide | 1.06 g, 78% yield | NC=1C=C(C(=O)N(CC(C)C)CC(C)C)C=CC1NCCCN(C)CC1=CC=CC=C1 | C26H40N4O
